US04414390
6-(α-Bromopropionyl)-1-methyl-3,4-dihydrocarbostyril (5 g), 2-aminopyridine (4.77 g) and acetonitrile (20 ml) were refluxed for 1.5 hours. The reaction mixture was cooled with ice water and crystals which precipitated were collected by filtration. The crystals were dissolved in acetone and the solution was adjusted to pH of about 1 by the addition of 48% hydrobromic acid. Crystals which formed were collected by filtration and recrystallized from water to give 5.68 g of 6-(3-methylimidazo[1,2-a]pyridine-2-yl)-1-methyl-3,4-dihydrocarbostyril monohydrobromide.

reactant | 6-(α-Bromopropionyl)-1-methyl-3,4-dihydrocarbostyril | 5 g | BrC(C(=O)C=1C=C2CCC(N(C2=CC1)C)=O)C | C13H14BrNO2
reactant | 2-aminopyridine | 4.77 g | NC1=NC=CC=C1 | C5H6N2
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
product | 6-(3-methylimidazo[1,2-a]pyridine-2-yl)-1-methyl-3,4-dihydrocarbostyril monohydrobromide | 5.68 g | Br.CC1=C(N=C2N1C=CC=C2)C=2C=C1CCC(N(C1=CC2)C)=O | InChI=1S/C18H17N3O.BrH/c1-12-18(19-16-5-3-4-10-21(12)16)14-6-8-15-13(11-14)7-9-17(22)20(15)2;/h3-6,8,10-11H,7,9H2,1-2H3;1H
